US08357707B2
c) Methanesulfonic acid 2,2,2-trifluoro-1-(5-methoxymethoxy-pyridin-2-yl)-1-methyl-ethyl ester
To a stirred mixture of 0.213 g (8.44 mmol) sodium hydride in 6 ml dry THF, 1.06 g (4.22 mmol) 1,1,1-trifluoro-2-(5-methoxymethoxy-pyridin-2-yl)-propan-2-ol (dissolved in 4.9 ml dry THF) was added dropwise at 0° C. After completion of the addition, stirring was continued for 3 h at room temperature. Then methanesulfonyl chloride (dissolved in 7.3 ml dry THF) was added at room temperature and stirring was continued for another 2 h. Then water and sat. NaHCO3 soln. were added. This mixture was extracted 2 times with EtOAc. The combinded organic layers were washed with water and brine, dried (MgSO4), filtered and concentrated in vacuo to afford 1.7 g of the title compound, which was used directly in the next step. LCMS (method L): tR=0.96 min, M+H=330.

reactant | sodium hydride | 8.44 mmol, 0.213 g | [H-].[Na+]
reactant | 1,1,1-trifluoro-2-(5-methoxymethoxy-pyridin-2-yl)-propan-2-ol | 4.22 mmol, 4.9 ml, 1.06 g | FC(C(C)(O)C1=NC=C(C=C1)OCOC)(F)F | C10H12F3NO3
reactant | methanesulfonyl chloride | 7.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Methanesulfonic acid 2,2,2-trifluoro-1-(5-methoxymethoxy-pyridin-2-yl)-1-methyl-ethyl ester | 1.7 g | FC(C(C)(C1=NC=C(C=C1)OCOC)OS(=O)(=O)C)(F)F | C11H14F3NO5S
